US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 85 was prepared from 1-(4-chlorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.46 (d, 1H, J=1.6 Hz), 7.42–7.39 (m, 2H), 7.31–7.21 (m, 4H), 7.08 (d, 1H, J=8.0 Hz), 6.78 (br s, 1H), 3.29 (dd, 2H, J=6.0, 12.0 Hz), 2.93 (d, 2H, J=11.6 Hz), 2.65 (m, 1H), 2.50 (m, 1H), 2.34–2.30 (m, 4H), 2.28 (s, 3H), 2.00–1.88 (m, 4H), 1.74–1.59 (m, 12H), 1.25 (d, 6H, J=6.8 Hz); ESMS m/e: 538.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclohexanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]-4-methylphenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1C)NC(C(C)C)=O | C19H31N3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[5-(ISOBUTYRYLAMINO)-2-METHYLPHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=C(C=CC(=C1)NC(C(C)C)=O)C | C32H44ClN3O2
